US09290485B2
d) N-((6-Amino-2,4-dimethylpyridin-3-yl)methyl)-1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxamide
To a solution of tert-Butyl 5-((1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate (160 mg, 0.318 mmol) in DCM (5 ml) Silica gel (2000 mg) was added. The resulting suspension was concentrated under vacuum to dryness and kept at 75° C. for 6 days under high vacuum. The mixture was taken up in suspended in DCM/NH3 (in MeOH 7N) 9:1, the solution was filtered of and concentrated under reduced pressure to afford the title compound. The crude product was purified by preparative HPLC (Waters Sunfire Prep C18 ODB 5 um, 30×100 mm, 1 to 99% ACN and 0.1% TFA, flow 45 ml/min) to yield pure title compound.

reactant | tert-Butyl 5-((1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate | 0.318 mmol, 160 mg | CN1C(=CC2=CC(=CC=C12)CN1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C)C | C28H34N6O3
solvent | DCM | 5 ml, 2000 mg | C(Cl)Cl | CH2Cl2
product | N-((6-Amino-2,4-dimethylpyridin-3-yl)methyl)-1-((1,2-dimethyl-1H-indol-5-yl)methyl)-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC=1C=C2C=C(N(C2=CC1)C)C)C | C23H26N6O
